US06653489B2
Into a reaction device similar to that used in Example 9 were charged 50.0 g (0.5 mol) of tetrahydropyran-4-one, 180.0 g (2.0 mol) of 50% by weight aqueous dimethylamine solution and 20 g (9 mmol in terms of a palladium atom) of 5% by weight Pd/C, and the mixture was reacted at a hydrogen pressure of 0.2 to 0.4 MPa at 50° C. for 7 hours and further at 70° C. for 4 hours. After completion of the reaction, the resulting reaction mixture was cooled to room temperature and the catalyst was filtered off by Celite, and the filtrate was made acidic (pH=1) by adding 60 ml of conc. sulfuric acid and then washed successively with 200 ml of 2-butanol twice and 200 ml of chloroform twice. Then, 130 g of potassium hydroxide was added to the aqueous layer to make the solution basic (pH=11), the aqueous layer was extracted three times with each 300 ml of ethyl acetate and the resulting organic layer was dried over anhydrous magnesium sulfate. After filtration, the organic layer was concentrated under reduced pressure, and then, by distillation under reduced pressure (83 to 85° C., 50 mmHg), 12.4 g (yield: 19%) of 4-dimethylaminotetrahydropyrane with a purity of 99% (areal percentage according to gas chromatography) as a colorless liquid.

reactant | tetrahydropyran-4-one | 0.5 mol, 50.0 g | O1CCC(CC1)=O | C5H8O2
reactant | dimethylamine | CNC | C2H7N
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
product | 4-dimethylaminotetrahydropyrane | 12.4 g, yield: 19% | CN(C1CCOCC1)C | C7H15NO
